US08377949B2
To a solution of (S)-(−)-N-benzyl-alpha-methyl-benzylamine (50 mL, 239 mmol) in THF (150 mL) at 0° C. is added nBuLi (2.5 M in THF) (100 mL, 250 mmol) under nitrogen atmosphere. The solution is cooled to −78° C. and ethyl trans-2-hexenoate (16.6 g, 117 mmol) is added. The solution is stirred for 1 hour and saturated NH4Cl solution is added. The solution is warmed to room temperature and is extracted with EtOAc. The combined organic layer is dried with MgSO4 and is filtered. The filtrate is concentrated and the residue is purified by flash chromatography with 5% EtOAc in Hexane as the eluent to afford the (S)-3-[Benzyl-((S)-1-phenyl-ethyl)-amino]-hexanoic acid ethyl ester (20.8 g, 50%) as a colorless oil.

reactant | (S)-(−)-N-benzyl-alpha-methyl-benzylamine | 239 mmol, 50 mL | C(C1=CC=CC=C1)N[C@H](C1=CC=CC=C1)C | C15H17N
reactant | nBuLi | 250 mmol, 2.5 M, 100 mL | [Li]CCCC
reactant | ethyl trans-2-hexenoate | 117 mmol, 16.6 g | C(\C=C\CCC)(=O)OCC | C8H14O2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | (S)-3-[Benzyl-((S)-1-phenyl-ethyl)-amino]-hexanoic acid ethyl ester | 20.8 g, 50% | C(C)OC(C[C@H](CCC)N([C@@H](C)C1=CC=CC=C1)CC1=CC=CC=C1)=O | C23H31NO2
